US07030118B2
E) (±)-{3-[1-(3-Benzyl-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-propylamino]-propyl}-carbamic acid tert-butyl ester
To a solution of (±)-3-benzyl-2-(1-hydroxy-propyl)-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one (0.70 g, 2.47 mmol) in methylene chloride (20 mL) at 0° C. was added triethylamine (517 μL, 3.71 mmol) followed by methanesulfonyl chloride (290 μL, 3.71 mmol). The reaction was stirred at room temperature for 45 min and was then diluted methylene chloride (10 mL) and water (10 mL). The layers were separated and the aqueous layer was extracted with methylene chloride (10 mL). The combined organic extracts were washed with brine (10 mL), dried over anhydrous MgSO4, and concentrated in vacuo. The crude mesylate was treated with N-BOC-1,3-diaminopropane (Fluka, 1.29 g, 7.41 mmol) and NMP (20 mL) at 75° C. for 14 h. After cooling to room temperature, the reaction was diluted with saturated NaHCO3 solution (30 mL) and EtOAc (30 mL). The layers were separated and the aqueous layer was extracted with EtOAc (2×30 mL). The combined organic extracts were washed with 10% LiCl solution (30 mL), dried over anhydrous MgSO4, and concentrated in vacuo. Purification of the crude product by flash column chromatography (SiO2, EtOAc/Hexane 1:1) gave the title compound as a colorless viscous oil (610 mg, 61%): 1H NMR (CDCl3) δ 7.25 (m, 6H), 7.01 (m, 1H), 6.47 (m, 1H), 5.66 (d, 1H, J=16.2 Hz), 5.04 (brs, 1H), 4.85 (d, 1H, J=16.1 Hz), 3.48 (m, 1H), 2.91 (m, 2H), 2.42 (m, 1H), 1.96 (m, 1H), 1.64 (m, 2H), 1.34 (s, 9H), 1.28 (m, 2H), 0.86 (t, 3H, J=7.28 Hz); 13C NMR (CDCl3) δ 156.3, 155.7, 151.6, 137.1, 129.4, 128.1, 126.8, 121.3, 118.4, 111.2, 109.2, 79.3, 59.9, 45.8, 44.5, 39.7, 29.8, 28.8, 28.6, 11.2; MS (ESI+) 440.29 (M++H).

reactant | (±)-3-benzyl-2-(1-hydroxy-propyl)-3H-pyrrolo[2,1-f][1,2,4]triazin-4-one | 2.47 mmol, 0.70 g | C(C1=CC=CC=C1)N1C(=NN2C(C1=O)=CC=C2)C(CC)O | C16H17N3O2
reactant | triethylamine | 3.71 mmol, 517 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.71 mmol, 290 μL | CS(=O)(=O)Cl | CH3ClO2S
reactant | mesylate | S(C)(=O)(=O)[O-]
reactant | N-BOC-1,3-diaminopropane | 7.41 mmol, 1.29 g | C(=O)(OC(C)(C)C)NCCCN | C8H18N2O2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 30 mL | CCOC(=O)C | C4H8O2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | NMP | 20 mL | CN1CCCC1=O | C5H9NO
solvent | water | 10 mL | O | H2O
product | (±)-{3-[1-(3-Benzyl-4-oxo-3,4-dihydro-pyrrolo[2,1-f][1,2,4]triazin-2-yl)-propylamino]-propyl}-carbamic acid tert-butyl ester | 610 mg, 61% | C(C)(C)(C)OC(NCCCNC(CC)C1=NN2C(C(N1CC1=CC=CC=C1)=O)=CC=C2)=O | C24H33N5O3
